US05760054
1,1-Dioxido-2-(4-(4-(6-methyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-5-nitro-1,2-benzisothiazol-3(2H)-one
From 4-(6-methyl-2-oxo-3-benzoxazolinyl)-piperidine and 2-(4-bromobutyl)-1,1-dioxido-5-nitro-1,2-benzisothiazol-3(2H)-one using the procedure described for Example 15, Step 5 there was obtained a white solid:1H NMR, HCl salt, (400 MHz, CDCl3): 8.87 (d, J=2.0 Hz, 1H), 8.74 (d, J=2.18 Hz, 1H), 8.72 (d, J=1.8 Hz, 1H), 8.14 (d, J=8.4 Hz, 1H), 7.11 (d, J=6.54 Hz, 1H), 7.03 (s, 1H), 6.94 (d, J=8.06 Hz, 1H), 4.18 (m, 1H), 3.89 (t, J=7.39 Hz, 2H), 3.06 (d, J=10.07 Hz, 2H), 2.46 (m, 2H), 2.38 (s, 3H), 2.34 (m, 2H), 2.14 (t, J=11.5 Hz, 2H), 1.94 (m, 2H), 1.85 (d, J=11.4 Hz, 2H), 1.65 (m, 2H).

reactant | 4-(6-methyl-2-oxo-3-benzoxazolinyl)-piperidine | CC1=CC2=C(N(C(O2)=O)C2CCNCC2)C=C1 | C13H16N2O2
reactant | 2-(4-bromobutyl)-1,1-dioxido-5-nitro-1,2-benzisothiazol-3(2H)-one | BrCCCCN1S(C2=C(C1=O)C=C(C=C2)[N+](=O)[O-])(=O)=O | C11H11BrN2O5S
reactant | HCl | Cl | ClH
product | 1,1-Dioxido-2-(4-(4-(6-methyl-2-oxo-3-benzoxazolinyl)-piperidin-1-yl)-butyl)-5-nitro-1,2-benzisothiazol-3(2H)-one | O=S1(N(C(C2=C1C=CC(=C2)[N+](=O)[O-])=O)CCCCN2CCC(CC2)N2C(OC1=C2C=CC(=C1)C)=O)=O | C24H26N4O7S
